US05932728
9-[2-(Methanesulfonyloxy)ethyl]-2,4-di-1-pyrrolidinyl-9H-pyrimido[4,5-b]indole (II)
9-[2-(Hydroxy)ethyl]-2,4-di-1-pyrrolidinyl-9H-pyrimido[4,5-b]indole (I, J. Med. Chem., 38, 4161-3 (1995) is reacted with methanesulfonyl chloride by means known to those skilled in the art to give the title compound.

reactant | 9-[2-(Hydroxy)ethyl]-2,4-di-1-pyrrolidinyl-9H-pyrimido[4,5-b]indole | OCCN1C2=C(C3=CC=CC=C13)C(=NC(=N2)N2CCCC2)N2CCCC2 | C20H25N5O
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 9-[2-(Methanesulfonyloxy)ethyl]-2,4-di-1-pyrrolidinyl-9H-pyrimido[4,5-b]indole | CS(=O)(=O)OCCN1C2=C(C3=CC=CC=C13)C(=NC(=N2)N2CCCC2)N2CCCC2 | C21H27N5O3S
